US04284642
4-Chloroaniline is reacted with 1,2-epoxypropane as described in Example 3, Method (b), point (a) to obtain N-(β-hydroxypropyl)-4-chloro-aniline with a yield of 61.0%; b.p.: 158°-164° C./0.3 mm Hg.

reactant | 4-Chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 1,2-epoxypropane | O1CC1C | C3H6O
product | N-(β-hydroxypropyl)-4-chloro-aniline | yield of 61.0% | OC(CNC1=CC=C(C=C1)Cl)C | C9H12ClNO
